US09382188B2
step 1) 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl
To a solution of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol (220 mg) in toluene (5 mL) was added 4-(tert-butyl)-2,6-dimethylphenylsulfur trifluoride (188 mg) at 0° C., and the mixture was stirred at 0° C. for 20 min. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (180 mg) as a colorless oil.

reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol | 220 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CC(C)(C)C)O | C27H31FO4
reactant | 4-(tert-butyl)-2,6-dimethylphenylsulfur trifluoride | 188 mg | C(C)(C)(C)C1=CC(=C(C(=C1)C)S(F)(F)F)C | C12H17F3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl | 180 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CC(C)(C)C)F | C27H30F2O3
